US04918086
Preparation of 2-(N-butyl-N-methylamino)-2-methylthio-1-nitroethylene
A solution of 8.26 g (0.05 mol) of 1-nitro-2,2-di(methylthio)ethylene and 5.25 g (0.06 mol) of N-n-butyl-N-methylamine in toluene is refluxed for 2 hours. After evaporation of the toluene under vacuum, 10.2 g of 2-(N-butyl-N-methylamino)-2-methylthio-1-nitroethylene are isolated as an oil (nD21 =1.584). (Compound 2.1, Table 2).

reactant | 1-nitro-2,2-di(methylthio)ethylene | 0.05 mol, 8.26 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | N-n-butyl-N-methylamine | 0.06 mol, 5.25 g | C(CCC)NC | C5H13N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(N-butyl-N-methylamino)-2-methylthio-1-nitroethylene | C(CCC)N(C)C(=C[N+](=O)[O-])SC | C8H16N2O2S
